### PR TITLE
[Merged by Bors] - chore(Order/Defs/LinearOrder): use `@[to_dual]`

### PR DESCRIPTION
**Pull request by JovanGerb**
This PR tags the content of `Mathlib.Order.Defs.LinearOrder` with `@[to_dual]`. For this to work, we also tag some lemmas used by `grind` with the `@[to_dual]` tag.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/Basic.lean [hunk 1]
```diff
@@ -372,15 +372,6 @@ lemma gt_or_lt (h : a < b) (c : α) : a < c ∨ c < b := (le_or_gt b c).imp h.tr
...
 
--- Variant of `min_def` with the branches reversed.
-theorem min_def' (a b : α) : min a b = if b ≤ a then b else a := by
-  grind
-
--- Variant of `min_def` with the branches reversed.
--- This is sometimes useful as it used to be the default.
-theorem max_def' (a b : α) : max a b = if b ≤ a then a else b := by
-  grind
-
```
Comment (bryangingechen) [inline Mathlib/Order/Basic.lean:383]: This moves some defs downstream, but this is fine, I think.

**Review by bryangingechen — APPROVED** [review]
Is it worth putting some comments here (or maybe in the `to_dual` docs?) giving some general guidance relating to the fields that weren't tagged here? Is it just that "better" lemmas of the same names exist in the root namespace and these won't be used elsewhere so there's no point tagging them?

Otherwise, LGTM.
bors d+

File: Mathlib/Order/Basic.lean (hunk 1 above)
Comment (JovanGerb) [reply Mathlib/Order/Basic.lean:383]: What do you mean? These theorems have been moved upstream, into the same file as `min_def` and `max_def`.

Comment (bryangingechen) [reply Mathlib/Order/Basic.lean:383]: You're right! I got confused!
